US07579473B2
To a flask containing cyclopropane-1,1-dicarboxylic acid (3-fluoro-4-hydroxy-phenyl)-amide (4-fluoro-phenyl)-amide (2.25 g, 6.7 mmol) and trifluoromethanesulfonic acid 7-benzyloxy-6-methoxy-quinolin-4-yl ester (1.87 g, 4.5 mmol) was added dry 2,6-lutidine (9 mL). The reaction mixture was heated to reflux (143° C.) with vigorous stirring. The reaction progress was monitored by LC-MS. 2,6-Lutidine was removed under reduced pressure when the reaction was complete (about 6 h). The residue was treated with charcoal (1.5 g) in refluxing EtOAc (50 mL) for 15 min, and filtered through celite. The volume of the filtrate was reduced to about 20 mL and was added 20 mL of 1 N HCl. The crude product precipitated as the HCl salt, which was filtered and washed with EtOAc and H2O (88% purity by analytical HPLC). The HCl salt was free-based with saturated aqueous NaHCO3 solution. Further purification by column chromatography (hexans:EtOAc=1:4) gave cyclopropane-1,1-dicarboxylic acid [4-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)-3-fluoro-phenyl]-amide (4-fluoro-phenyl)-amide as an off-white solid (1.3 g, 48% yield. 1H NMR (400 MHz, DMSO, d6): 10.41 (s, 1H), 10.02 (s, 1H), 8.48 (d, 1H), 7.92 (dd, 1H), 7.65 (m, 2H), 7.54 (m, 5H), 7.41 (m, 4H), 7.17 (m, 2H), 6.43 (d, 1H), 5.32 (s, 2H), 3.97 (s, 3H), 1.48 (m, 4H). LC/MS Calcd for [M+H]+ 596.2, found 596.3.

reactant | cyclopropane-1,1-dicarboxylic acid (3-fluoro-4-hydroxy-phenyl)-amide (4-fluoro-phenyl)-amide | 6.7 mmol, 2.25 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)O)F | C17H14F2N2O3
reactant | trifluoromethanesulfonic acid 7-benzyloxy-6-methoxy-quinolin-4-yl ester | 4.5 mmol, 1.87 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OS(=O)(=O)C(F)(F)F)OC | C18H14F3NO5S
reactant | 2,6-lutidine | 9 mL | N1=C(C=CC=C1C)C | C7H9N
product | cyclopropane-1,1-dicarboxylic acid [4-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)-3-fluoro-phenyl]-amide (4-fluoro-phenyl)-amide | 48% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)F | C34H27F2N3O5
